US06972297B2
(b) Ethyl 3-methylaminopyridazine-6-carboxylate
A solution of 3-methylaminopyridazine-6-carboxylic acid (0.58 g) in ethanol (50 ml) was saturated with HCl gas, refluxed 48 hours and evaporated. The residue was partitioned between EtOAc and aqueous NaHCO3, separated and the aqueous re-extracted with EtOAc. The organic was dried and evaporated to give title compound (0.61 g). MS(+ve ion chemical ionisation) m/z 182 (MH+, 100%).

reactant | 3-methylaminopyridazine-6-carboxylic acid | 0.58 g | CNC=1N=NC(=CC1)C(=O)O | C6H7N3O2
reactant | HCl | Cl | ClH
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl 3-methylaminopyridazine-6-carboxylate | 0.61 g | CNC=1N=NC(=CC1)C(=O)OCC | C8H11N3O2
